US06927228B2
600 mg (1 mmol) of N-{4′-[(S)-3-((S)-4-benzyl-2-oxooxazolidin-3-yl)-2-ethoxy-3-oxopropyl]biphenyl-3-ylmethyl}-N-methylbenzamide and 10 ml of THF are introduced into a round-bottomed flask. At 0° C., 4.2 ml (2 mmol) of an aqueous lithium hydroxide solution (0.5M) are added and the mixture is stirred for one hour. The reaction medium is poured into water, acidified to pH 1 and extracted with ethyl acetate, and the organic phase is separated out after settling of the phases has taken place, dried over magnesium sulfate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (50/50). 200 mg (47%) of (S)-2-ethoxy-3-(3′-{[methyl-(1-phenylmethanoyl)amino]methyl}biphenyl-4-yl)propionic acid, with a melting point of 53-54° C., are obtained.

reactant | N-{4′-[(S)-3-((S)-4-benzyl-2-oxooxazolidin-3-yl)-2-ethoxy-3-oxopropyl]biphenyl-3-ylmethyl}-N-methylbenzamide | 1 mmol, 600 mg | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)C)OCC)=O | C36H36N2O5
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 2 mmol, 0.5M, 4.2 ml | [OH-].[Li+]
solvent | water | O | H2O
product | (S)-2-ethoxy-3-(3′-{[methyl-(1-phenylmethanoyl)amino]methyl}biphenyl-4-yl)propionic acid | 200 mg, 47% | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(=O)C1=CC=CC=C1)C | C26H27NO4
